US05481032
32 g of 20% hydrogen peroxide solution are added dropwise over 30 min to a solution of 37.8 g (0.15 mol) of 2-chloro-4,5-difluorobenzophenone in 400 g of 100% sulfuric acid in such a way that the temperature remains below 35° C. The reaction is complete after 7 h. The reaction mixture is then poured on to 1200 g of ice. Extraction of the mother liquor with methyl tert-butyl ether, isolation of the crude product from the extract and crystallization from water gives 17.0 g (0.0883 mol, 88%) of colorless 2-chloro-4,5-difluorobenzoic acid melting at 104.4°-105.8° C.

reactant | hydrogen peroxide | 32 g | OO | H2O2
reactant | 2-chloro-4,5-difluorobenzophenone | 0.15 mol, 37.8 g | ClC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)F)F | C13H7ClF2O
solvent | sulfuric acid | 400 g | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-4,5-difluorobenzoic acid | 0.0883 mol, 17.0 g, 88% | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
